US03973024
[o-(2,6-Dichloro-anilino)-phenyl]-acetic acid-3-(4-pyridyl)-propyl ester
In analogous manner [o-(2,6-dichloro-anilino)-phenyl]-acetic acid-2-(2-pyridyl)-ethyl ester with a melting point of 67°-68°C (crystallisation from petroleum ether) is obtained starting from 2.96 g of [o-(2,6-dichloro-anilino)-phenyl]-acetic acid, 3.0 g of dimethyl formamide-dineopentylacetal, and 1.4 g of 2-(2-hydroxyethyl)-pyridine.

reactant | [o-(2,6-dichloro-anilino)-phenyl]-acetic acid | 2.96 g | ClC1=C(NC2=C(C=CC=C2)CC(=O)O)C(=CC=C1)Cl | C14H11Cl2NO2
reactant | dimethyl formamide-dineopentylacetal | 3.0 g | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
reactant | 2-(2-hydroxyethyl)-pyridine | 1.4 g | OCCC1=NC=CC=C1 | C7H9NO
product | [o-(2,6-Dichloro-anilino)-phenyl]-acetic acid-3-(4-pyridyl)-propyl ester | N1=CC=C(C=C1)CCCOC(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O | C22H20Cl2N2O2
